US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)-4-[N-(3-methoxyphenyl)-N-[[3-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]piperidine
4-(m-Anisidino)-1-(tert-butoxycarbonyl)piperidine (613 mg) and 5-chloromethyl-3-(3,4,5-trimethoxyphenyl)pyridine (588 mg) was treated in the same manner as described in Example 9 to give light yellow amorphous of the title compound.

reactant | 4-(m-Anisidino)-1-(tert-butoxycarbonyl)piperidine | 613 mg | COC1=CC(=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | 5-chloromethyl-3-(3,4,5-trimethoxyphenyl)pyridine | 588 mg | ClCC=1C=C(C=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 1-(tert-Butoxycarbonyl)-4-[N-(3-methoxyphenyl)-N-[[3-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC=1C=C(C=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC(=CC=C1)OC | C32H41N3O6
